simulator lang=spectre
global 0

ahdl_include "./dut/charge_pump_pulse_balancer.va"

Vup (up 0) vsource type=pwl wave=[0 0 5n 0 5.1n 0.9 23n 0.9 23.1n 0 41n 0 41.1n 0.9 56n 0.9 56.1n 0 62n 0 62.1n 0.9 69n 0.9 69.1n 0 80n 0]
Vdn (dn 0) vsource type=pwl wave=[0 0 23n 0 23.1n 0.9 56n 0.9 56.1n 0 69n 0 69.1n 0.9 76n 0.9 76.1n 0 80n 0]
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=6n width=3n delay=1n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2.1n 0.9 2.2n 0 80n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.1n 0.9 56n 0.9 56.1n 0 62n 0 62.1n 0.9 80n 0.9]
XDUT (up dn clk rst enable vctrl imbalance_metric balanced) charge_pump_pulse_balancer


simulatorOptions options evas_profile=balanced

tran tran stop=80n maxstep=120p
save up dn clk rst enable vctrl imbalance_metric balanced
